US03983107
4-(3-Phenylpropyl)piperidinocarbonyl Chloride
Phosgene is passed into 150 ml. of dry toluene at 0°C. until 17 g. of gas has been absorbed. The cooling bath is removed, and to the phosgene solution is added, dropwise, with stirring, during 1 hour, a solution prepared from 27.6. g. of 4-(3-phenylpropyl)piperidine, and 12.3 ml. of pyridine and 100 ml. of toluene. After the end of the addition, the reaction mixture is stored at ambient temperature for 16 hours. At this point, the reaction mixture is filtered, and the filtrate is evaporated in vacuo, leaving 39 g. of the title compound in crude state. The product is contaminated with toluene, but it is sufficiently pure for coupling with alkenesulfonamides.

reactant | Phosgene | C(=O)(Cl)Cl | CCl2O
reactant | 4-(3-phenylpropyl)piperidine | C1(=CC=CC=C1)CCCC1CCNCC1 | C14H21N
reactant | pyridine | N1=CC=CC=C1 | C5H5N
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 4-(3-Phenylpropyl)piperidinocarbonyl Chloride | C1(=CC=CC=C1)CCCC1CCN(CC1)C(=O)Cl | C15H20ClNO
